US07786231B2
Preparation of 5-norbornene-2-carboxylic acid benzyl ester
DCPD (dicyclopentadiene, Aldrich, 67.32 mL, 0.5 mol), benzyl acrylate (Lancaster, 163 g, 1.0 mol) and hydroquinone (0.23 g, 2.1 mmol) were charged into a 2 L high-pressure autoclave, and the temperature was raised to 200° C. The resulting mixture was reacted for 5 hours with stirring at 300 rpm. After the reaction was completed, the reaction mixture was cooled and transferred to a distilling apparatus. The reaction mixture was distilled twice under a reduced pressure (1 torr) using a vacuum pump to yield the title compound at 190° C. (yield: 65%, exo/endo=56/44).

reactant | DCPD | 0.5 mol, 67.32 mL | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | benzyl acrylate | 1.0 mol, 163 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | hydroquinone | 2.1 mmol, 0.23 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 5-norbornene-2-carboxylic acid benzyl ester | yield: 65% | C(C1=CC=CC=C1)OC(=O)C1C2C=CC(C1)C2 | C15H16O2
